US06737409B2
N-[1-({1-sec-Butyl-4-[2-(1-methanesulfonyl-2-phenethylcarbamoyl-ethyl)-pyrrolidin-1-yl]-2-methoxy-4-oxo-butyl}-methyl-carbamoyl)-2-methyl-propyl]-3-methyl-2-methylamino-butyramide
To a stirred solution of the crude {1-[1-({1-sec-butyl-2-methoxy-4-[2-(1-methylsulfonyl-2-phenethylcarbamoyl-ethyl)-pyrrolidin-1-yl]-4-oxo-butyl}-methyl-carbamoyl)-2-methyl-propylcarbamoyl]-2-methyl-propyl}-methyl-carbamic acid benzyl ester (311 mg) obtained above in tBuOH (9 ml) and H2O (1 ml) was added Pd(OH)2 on carbon(ca. 20 wt %, 1 g) at room temperature and then the mixture was set under H2 atmosphere. After being stirred at room temperature for 13.5 hr, the mixture was filtrated through a pad of celite and washed with MeOH. The filtrate and washings were combined and concentrated in vacuo to give the crude gum (285 mg), which was purified by preparative HPLC (column: ODS-80Ts, eluent: 40/30 H2O:CH3CN/0.05% TFA). The appropriate fractions were lyophilized to give the title compound as a white amorphous powder (160 mg, 58%).

reactant | {1-[1-({1-sec-butyl-2-methoxy-4-[2-(1-methylsulfonyl-2-phenethylcarbamoyl-ethyl)-pyrrolidin-1-yl]-4-oxo-butyl}-methyl-carbamoyl)-2-methyl-propylcarbamoyl]-2-methyl-propyl}-methyl-carbamic acid benzyl ester | 311 mg | C(C1=CC=CC=C1)OC(N(C)C(C(C)C)C(NC(C(C)C)C(N(C)C(C(CC(=O)N1C(CCC1)C(CC(NCCC1=CC=CC=C1)=O)S(=O)(=O)C)OC)C(C)CC)=O)=O)=O | C45H69N5O9S
reactant | H2O | 1 ml | O | H2O
solvent | tBuOH | 9 ml | CC(C)(C)O | C4H10O
catalyst | Pd(OH)2 on carbon | 1 g | [OH-].[OH-].[Pd+2]
product | N-[1-({1-sec-Butyl-4-[2-(1-methanesulfonyl-2-phenethylcarbamoyl-ethyl)-pyrrolidin-1-yl]-2-methoxy-4-oxo-butyl}-methyl-carbamoyl)-2-methyl-propyl]-3-methyl-2-methylamino-butyramide | C(C)(CC)C(C(CC(=O)N1C(CCC1)C(CC(NCCC1=CC=CC=C1)=O)S(=O)(=O)C)OC)N(C(=O)C(C(C)C)NC(C(C(C)C)NC)=O)C | C37H63N5O7S
